US07230098B2
5-Bromo-3-(2-chloro-6-fluoro-benzyloxy)-pyridin-2-ylamine (Example I(e), 9.00 g, 27.0 mmol), 4-carboxybenzeneboronic acid (4.41 g, 27.0 mmol), tetrakis(triphenylphosphine)palladium(0) (0.99 g, 0.9 mmol), potassium carbonate (13.1 g, 95.0 mmol), dimethylformamide (72 mL) and water (36 mL) were charged to a 250 mL three neck round bottom flask equipped with a thermometer, a reflux condenser and magnetic stirring. The mixture was purged with nitrogen and gradually heated from 81° C. to 98° C. over a period of 4 hr. Thin layer chromatography (ethyl acetate:hexane:acetic acid 4:6:0.5) showed a trace of starting material at Rf 0.7, product at Rf 0.4 and many small impurities. The mixture was cooled to 45° C. The solids were collected by vacuum filtration, washed with 30 mL of ethanol:water 1:1 and discarded. The filtrate was diluted with 432 mL of water and 8 mL of 9 N potassium hydroxide solution (to pH 12–13), cooled in an ice bath and stirred for 30 minutes. The solids were collected by vacuum filtration and washed with 5 mL of water. The filtrate was cooled in an ice bath and acidified to pH 7.5 with acetic acid using a pH meter. The solids were collected by vacuum filtration, washed with 10 mL of ethanol:water 1:1 and dried under vacuum to give 2.5 g of 4-[6-amino-5-(2-chloro-6-fluoro-benzyloxy)-pyridin-3-yl]-benzoic acid and a second compound as a brown solid in a ratio of about 1:1 by 1H-NMR. This material was discarded. The filtrate was acidified to pH 6.5 with acetic acid using a pH meter. The solids were collected by vacuum filtration, washed with 10 mL of ethanol:water 1:1 and dried under vacuum to give 3.6 g (36% yield) of 4-[6-amino-5-(2-chloro-6-fluoro-benzyloxy)-pyridin-3-yl]-benzoic acid as a brown solid containing a 5–10% impurity by 1H-NMR.

reactant | 5-Bromo-3-(2-chloro-6-fluoro-benzyloxy)-pyridin-2-ylamine | 27.0 mmol, 9.00 g | BrC=1C=C(C(=NC1)N)OCC1=C(C=CC=C1F)Cl | C12H9BrClFN2O
reactant | 4-carboxybenzeneboronic acid | 27.0 mmol, 4.41 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | potassium carbonate | 95.0 mmol, 13.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 72 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.9 mmol, 0.99 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 36 mL | O | H2O
product | 4-[6-amino-5-(2-chloro-6-fluoro-benzyloxy)-pyridin-3-yl]-benzoic acid | 2.5 g | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)OCC1=C(C=CC=C1F)Cl | C19H14ClFN2O3
